US08058299B2
Preparation of (S)-3-(5-{[2-(2-trifluoromethoxy-phenyl)-5-trifluoromethyl-oxazole-4-carbonyl]-amino}-pyrimidin-2-ylamino)-pyrrolidine-1-carboxylic acid ethyl ester
With a method similar to that used for the preparation of 4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester above, (S)-3-(5-{[2-(2-trifluoromethoxy-phenyl)-5-trifluoromethyl-oxazole-4-carbonyl]-amino}-pyrimidin-2-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester was prepared from 2-(2-trifluoromethoxy-phenyl)-5-trifluoromethyl-oxazole-4-carboxylic acid and (S)-3-(5-amino-pyrimidin-2-ylamino)-pyrrolidine-1-carboxylic acid ethyl ester. LCMS calcd for C23H20F6N6O5 (m/e) 574.4, obsd 575.2 (M+H).

reactant | 4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C25H26F3N5O4
reactant | (S)-3-(5-{[2-(2-trifluoromethoxy-phenyl)-5-trifluoromethyl-oxazole-4-carbonyl]-amino}-pyrimidin-2-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC1=NC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=C(C=CC=C1)OC(F)(F)F | C25H24F6N6O5
reactant | 2-(2-trifluoromethoxy-phenyl)-5-trifluoromethyl-oxazole-4-carboxylic acid | FC(OC1=C(C=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F)(F)F | C12H5F6NO4
reactant | (S)-3-(5-amino-pyrimidin-2-ylamino)-pyrrolidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1C[C@H](CC1)NC1=NC=C(C=N1)N | C11H17N5O2
product | (S)-3-(5-{[2-(2-trifluoromethoxy-phenyl)-5-trifluoromethyl-oxazole-4-carbonyl]-amino}-pyrimidin-2-ylamino)-pyrrolidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1C[C@H](CC1)NC1=NC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=C(C=CC=C1)OC(F)(F)F | C23H20F6N6O5
